US05102877
To a solution of (2S)-4-acetyl-1-allyloxycarbonyl-2-hydroxymethylpyrrolidine (2.14 g) and imidazole (770 mg) in dichloromethane (20 ml) was added dropwise a solution of tert-butyldimethylsilyl chloride (1.7 g) in dichloromethane (5 ml) at 0° C. After one hour, the reaction mixture was washed in turn with 1N-hydrochloric acid and brine, and dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (2:1, V/V) to give (2S)-4-acetyl-1-allyloxycarbonyl-2-(tert-butyldimethylsilyloxy)methylpyrrolidine (2.725 g).

reactant | (2S)-4-acetyl-1-allyloxycarbonyl-2-hydroxymethylpyrrolidine | 2.14 g | C(C)(=O)C1C[C@H](N(C1)C(=O)OCC=C)CO | C11H17NO4
reactant | imidazole | 770 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-4-acetyl-1-allyloxycarbonyl-2-(tert-butyldimethylsilyloxy)methylpyrrolidine | 2.725 g | C(C)(=O)C1C[C@H](N(C1)C(=O)OCC=C)CO[Si](C)(C)C(C)(C)C | C17H31NO4Si
